US07704989B2
17.4 mg of sodium borohydride are added to a suspension, cooled to 0° C., of 157 mg of 6-benzoyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in 10 ml of methanol. The reaction mixture is stirred for 16 hours, while allowing the temperature to rise to 20° C. 20 mg of sodium borohydride are added and the mixture is stirred at 20° C. for a further 1.5 hours. After evaporating to dryness, the residue is taken up in 50 ml of water and 200 ml of ethyl acetate. The organic phase is separated by settling, dried and concentrated to dryness under reduced pressure to give 122 mg of 6-[hydroxy(phenyl)methyl]-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in the form of a white solid.

reactant | sodium borohydride | 17.4 mg | [BH4-].[Na+]
reactant | 6-benzoyl-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 157 mg | C(C1=CC=CC=C1)(=O)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C21H15N3O2
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 6-[hydroxy(phenyl)methyl]-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 122 mg | OC(C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2)C2=CC=CC=C2 | C21H17N3O2
